US07517873B2
To a solution of 1.00 g (0.0034 mole) of 2-chloro-9-cyclopentyl-8,9-dihydro-spiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one (VI-53) in 40 mL of dimethylformamide was added 1.47 g (0.0104 mole) of iodomethane and 1.68 g (0.00575 mole) of cesium carbonate. The mixture was stirred at ambient temperature overnight and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.957 g of 2-chloro-9-cyclopentyl-8,9-dihydro-5-methylspiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one (VII-53) as a white solid.

reactant | 2-chloro-9-cyclopentyl-8,9-dihydro-spiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one | 0.0034 mole, 1.00 g | ClC=1N=CC2=C(N(CC3(CC3)C(N2)=O)C2CCCC2)N1 | C14H17ClN4O
reactant | iodomethane | 0.0104 mole, 1.47 g | IC | CH3I
reactant | cesium carbonate | 0.00575 mole, 1.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-chloro-9-cyclopentyl-8,9-dihydro-5-methylspiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one | 0.957 g | ClC=1N=CC2=C(N(CC3(CC3)C(N2C)=O)C2CCCC2)N1 | C15H19ClN4O
